US04888043
Ethylisothiocyanate (0.35 g, 3.98 mmol) was added to a solution of 2-propionyl-3-hydroxy-5-(3-amino-2,4,6-trimethylphenyl)cyclohex-2-en-1-one (1.0 g, 3.32 mmol) in ethanol (5 ml). Stirring was continued at 20° for 4 days. Dilute acid and methylene chloride were added. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated. The crude product was purified by chromatography on silica gel (elution with an increasing gradient of methanol in methylene chloride) to yield 2-propionyl-3-hydroxy-5-(3-ethylthioureido-2,4,6-trimethylphenyl)cyclohex-2-en-1-one as an oil (0.4 g, 33%). The compound was characterized by proton magnetic resonance spectroscopy (CDCl3, δ in ppm): 1.12 (6H,t); 2.18 (3H,s); 2.28 (3H,s); 2.39 (3H,s); 2.4-4.2 (9H,m); 5.4 (1H,brs); 6.29 (1H,s); 8.34 (1H,brs).

reactant | Ethylisothiocyanate | 3.98 mmol, 0.35 g | C(C)N=C=S | C3H5NS
reactant | 2-propionyl-3-hydroxy-5-(3-amino-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | 3.32 mmol, 1.0 g | C(CC)(=O)C=1C(CC(CC1O)C1=C(C(=C(C=C1C)C)N)C)=O | C18H23NO3
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-propionyl-3-hydroxy-5-(3-ethylthioureido-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | 0.4 g, 33% | C(CC)(=O)C=1C(CC(CC1O)C1=C(C(=C(C=C1C)C)NC(=S)NCC)C)=O | C21H28N2O3S
